US07262185B2
To 1-butyl-2-hydroxymethylimidazole (3.0 g) was added thionyl chloride (30 ml), and the mixture was heated for 30 minutes under nitrogen atmosphere at 90° C. The mixture was allowed to be at room temperature, the solvent was distilled off under reduced pressure, and the obtained solid was washed with ethyl acetate, to give 1-butyl-2-chloromethylimidazole hydrochloride (3.5 g) as brown crystals.

reactant | 1-butyl-2-hydroxymethylimidazole | 3.0 g | C(CCC)N1C(=NC=C1)CO | C8H14N2O
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
product | 1-butyl-2-chloromethylimidazole hydrochloride | 3.5 g | Cl.C(CCC)N1C(=NC=C1)CCl | InChI=1S/C8H13ClN2.ClH/c1-2-3-5-11-6-4-10-8(11)7-9;/h4,6H,2-3,5,7H2,1H3;1H
